US09034903B2
Synthesis of 1-(4-ethylcyclohexyl)-3-(1-isobutyrylpiperidin-4-yl)urea
4-(Trifluoromethyl)phenylisocyanate (100 mg, 0.65 mmol) and 1-(4-aminopiperidin-1-yl)-2-methylbutan-1-one (111 mg, 0.53 mmol) was dissolved in CH2Cl2 (100 mL) and stirred for 12 h. The reaction was quenched by addition of water. The organic layer was isolated and the aqueous layer was extracted with EtOAc for 4 times. The combined organic layer was concentrated under vacuo and was further purified by flash chromatography (EtOAc:Hex/1:1) yielding final product (89 mg, 2.76 mmol, 42%). H-NMR (DMSO-d6) ∂ 0.83 (t, J=8 Hz, 3H), 0.91 (m, 1H), 0.97 (m, 7H), 1.03 (m, 3H), 1.16 (m, 4H), 1.69 (m, 3H), 1.78 (m, 3H), 2.72 (t, J=12 Hz, 1H), 2.85 (m, 1H), 3.10 (t, J=12 Hz, 1H), 3.24 (m, 1H), 3.57 (m, 1H), 3.79 (d, J=13 Hz, 1H), 4.14 (d, J=13 Hz, 1H), 5.56 (d, J=7.5 Hz, 1H), 5.70 (d, J=7.5 Hz, 1H).

reactant | 4-(Trifluoromethyl)phenylisocyanate | 0.65 mmol, 100 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | 1-(4-aminopiperidin-1-yl)-2-methylbutan-1-one | 0.53 mmol, 111 mg | NC1CCN(CC1)C(C(CC)C)=O | C10H20N2O
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-ethylcyclohexyl)-3-(1-isobutyrylpiperidin-4-yl)urea | 2.76 mmol, 89 mg, 42% | C(C)C1CCC(CC1)NC(=O)NC1CCN(CC1)C(C(C)C)=O | C18H33N3O2
